US08431563B2
In a 250-mL round-bottomed flask, a solution of (R)-1,4-bis(tert-butoxycarbonyl)piperazine-2-carboxylic acid (1.51 g, 4.57 mmol, ASW Medchem, New Brunswick, N.J.), 3-oxa-8-azabicyclo[3.2.1]octane hydrochloride (0.684 g, 4.57 mmol, Advanced Chemblocks, Burlingame, Calif.), and Hünig's base (1.76 mL, 10.06 mmol) in 15 mL of DMF was stirred at 0° C. To this mixture was added HATU (1.912 g, 5.03 mmol, Oakwood Products, West Columbia, S.C.). The reaction was stirred for 3 h at room temperature. The mixture was then diluted with EtOAc (25 mL) and water (25 mL). The organic solution was then extracted with water (2×25 mL) and brine (25 mL). The organic layer was dried over MgSO4, filtered, and concentrated. The crude material was purified via column chromatography (about 40 g silica gel, 5% to 80% of EtOAc in hexanes) to give (R)-di-tert-butyl 2-((1R,5S)-3-oxa-8-azabicyclo[3.2.1]octane-8-carbonyl)piperazine-1,4-dicarboxylate (1.78 g) as a colorless oil.

reactant | (R)-1,4-bis(tert-butoxycarbonyl)piperazine-2-carboxylic acid | 4.57 mmol, 1.51 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C(=O)O | C15H26N2O6
reactant | 3-oxa-8-azabicyclo[3.2.1]octane hydrochloride | 4.57 mmol, 0.684 g | Cl.C12COCC(CC1)N2
reactant | Hünig's base | 10.06 mmol, 1.76 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 5.03 mmol, 1.912 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | water | 25 mL | O | H2O
product | (R)-di-tert-butyl 2-((1R,5S)-3-oxa-8-azabicyclo[3.2.1]octane-8-carbonyl)piperazine-1,4-dicarboxylate | 1.78 g | [C@H]12COC[C@H](CC1)N2C(=O)[C@@H]2N(CCN(C2)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H35N3O6
